US04785103
Concentrated hydrochloric acid (0.1 ml) was added to a solution of 97 mg of 17α-acetoxy-6α,7α-epoxy-2-oxa-4-pregnene-3,20-dione in 4 ml of tetrahydrofuran, and the solution was stirred at room temperature for 10 minutes. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 102 mg of 17α-acetoxy-6β-chloro-7α-hydroxy-2-oxa-4-pregnene-3,20-dione.

reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | 17α-acetoxy-6α,7α-epoxy-2-oxa-4-pregnene-3,20-dione | 97 mg | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3[C@H]4[C@@H](C5=CC(OC[C@]5(C)[C@H]3CC[C@]12C)=O)O4 | C22H28O6
reactant | Water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 17α-acetoxy-6β-chloro-7α-hydroxy-2-oxa-4-pregnene-3,20-dione | 102 mg | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3[C@@H]([C@H](C4=CC(OC[C@]4(C)[C@H]3CC[C@]12C)=O)Cl)O | C22H29ClO6
